US07736393B2
A reactor equipped with an exhaust vent and a thermometer was charged with 263 g of L-lactide (reagent, supplied by SIGMA-ALDRICH JAPAN K.K.), 42 g of glycollide (prepared under the same conditions as those in Example 1), 194 g of ε-caprolactone (reagent, supplied by TOKYO CHEMICAL INDUSTRY CO., LTD.) and 0.01 g of tin octanoate (reagent, supplied by SIGMA-ALDRICH JAPAN K.K.) as a catalyst, and the pressure inside the reactor was reduced to 1×10−3 mmHg with a vacuum pump, followed by polymerization at 190° C. for 24 hours. After the reaction, a copolymer was dissolved in chloroform and purified by precipitation in methanol, to give a lactic acid/glycolic acid/ε-caprolactone copolymer.

reactant | L-lactide | 263 g | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | glycollide | 42 g | C1C(=O)OCC(=O)O1 | C4H4O4
catalyst | ε-caprolactone | 194 g | C1(CCCCCO1)=O | C6H10O2
catalyst | tin octanoate | 0.01 g | C(CCCCCCC)(=O)[O-].[Sn+4].C(CCCCCCC)(=O)[O-].C(CCCCCCC)(=O)[O-].C(CCCCCCC)(=O)[O-]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | lactic acid glycolic acid ε-caprolactone | C(C(O)C)(=O)O.C(CO)(=O)O.C1(CCCCCO1)=O | InChI=1S/C6H10O2.C3H6O3.C2H4O3/c7-6-4-2-1-3-5-8-6;1-2(4)3(5)6;3-1-2(4)5/h1-5H2;2,4H,1H3,(H,5,6);3H,1H2,(H,4,5)
